US05859051
3-chloro-4-(3-(3-phenyl-7-propylbenzofuran-6-yloxy)propylthio)-phenylacetic acid
To a solution of methyl 3-chloro-4-(3-(3-phenyl-7-propylbenzofuran-6-yloxy)propylthio)-phenylacetate (3.72 g, 7.31 mmol) prepared in last step and aqueous lithium hydroxide(1.0M; 14.62 ml; 14.62 mmol) in methanol (25 ml) was refluxed for 1 hr. The mixture was partitioned between isopropyl acetate and pH4 buffer. The organic was dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by chromatography (silica gel, 50% methylene chloride in hexane) to afford the title compound. M.P: 143° C. ESI-MS: m/e-495(M+1)

reactant | methyl 3-chloro-4-(3-(3-phenyl-7-propylbenzofuran-6-yloxy)propylthio)-phenylacetate | 7.31 mmol, 3.72 g | ClC=1C=C(C=CC1SCCCOC1=C(C2=C(C(=CO2)C2=CC=CC=C2)C=C1)CCC)CC(=O)OC | C29H29ClO4S
reactant | lithium hydroxide | 14.62 mmol, 1.0M, 14.62 ml | [OH-].[Li+]
solvent | methanol | 25 ml | CO | CH4O
product | 3-chloro-4-(3-(3-phenyl-7-propylbenzofuran-6-yloxy)propylthio)-phenylacetic acid | ClC=1C=C(C=CC1SCCCOC1=C(C2=C(C(=CO2)C2=CC=CC=C2)C=C1)CCC)CC(=O)O | C28H27ClO4S
